US07977477B2
1-(4-Chloro-3-nitro-benzenesulphonyl)-4-methyl-piperazine (0.50 g, 1.57 mmol) and benzylamine (0.502 g, 4.70 mmol) were dissolved in THF (10 ml) and heated at reflux for 3 h. The reaction mixture was then reduced in vacuo and partitioned between ethyl acetate and water. The organics were washed with brine, dried (MgSO4) and reduced in vacuo, and the resultant residue purified by column chromatography eluting with 0-10% methanol in ethyl acetate to give benzyl-[4-(4-methyl-piperazine-1-sulphonyl)-2-nitro-phenyl]-amine as a yellow solid (0.53 g, 86%). (LC/MS: Rt 2.21, [M+H]+ 391.05).

reactant | 1-(4-Chloro-3-nitro-benzenesulphonyl)-4-methyl-piperazine | 1.57 mmol, 0.50 g | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)[N+](=O)[O-] | C11H14ClN3O4S
reactant | benzylamine | 4.70 mmol, 0.502 g | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | benzyl-[4-(4-methyl-piperazine-1-sulphonyl)-2-nitro-phenyl]-amine | 0.53 g, 86% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)[N+](=O)[O-] | C18H22N4O4S
